US05015651
Ethyl 5-n-propyl-1-[(2'-carboxybiphenyl-4-yl)methyl]pyrrole-2-carboxylate
Ethyl 5-n-propyl-1-[(2'-t-butoxycarbonylbiphenyl-4-yl)methyl]pyrrole-2-carboxylate (600 mg, 1.34 mmol) was stirred with formic acid (6 ml) at room temperature for 4 hours (slowly dissolved to a homogenous yellow solution). The mixture was diluted to about 50 ml with water to give a white precipitate which was filtered and subsequently purified by flash chromatography on silica gel (10% EtOAc/hexanes) to give 419 mg (80%) of the compound; m.p. 111°-115° C.

reactant | Ethyl 5-n-propyl-1-[(2'-t-butoxycarbonylbiphenyl-4-yl)methyl]pyrrole-2-carboxylate | 1.34 mmol, 600 mg | C(CC)C1=CC=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C)C(=O)OCC | C28H33NO4
reactant | formic acid | 6 ml | C(=O)O | CH2O2
solvent | water | O | H2O
product | Ethyl 5-n-propyl-1-[(2'-carboxybiphenyl-4-yl)methyl]pyrrole-2-carboxylate | 419 mg, 80% | C(CC)C1=CC=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O)C(=O)OCC | C24H25NO4
